US04639441
Methyl 2-(3-methoxy-4-methylthio-2-azetidinon-1-yl)acetate
To a solution of methyl thioformylglycinate (266 mg.) in methylene chloride (3 ml.) was added magic methyl (methyl fluorosulphonate, 170 μl.). The resulting mixture was stirred at room temperature for 3 hours and then cooled with ice. Triethylamine (574 μl.) and methoxyacetyl chloride (192 μl.) were added to the above mixture, which was then stirred at that temperature for 45 minutes and then at room temperature for 30 minutes. The reaction mixture was extracted with ethyl acetate, washed with water and dried over magnesium sulphate. The solvent was then distilled off. The resulting residue was purified by preparative thin layer chromatography eluted with a 4:1 by volume mixture of methylene chloride and ethyl acetate, to afford 27 mg. of the desired product.

reactant | methyl thioformylglycinate | 266 mg | C(=S)NCC(=O)OC | C4H7NO2S
reactant | magic methyl | 170 μl | COS(=O)(=O)F | CH3FO3S
reactant | Triethylamine | 574 μl | C(C)N(CC)CC | C6H15N
reactant | methoxyacetyl chloride | 192 μl | COCC(=O)Cl | C3H5ClO2
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | Methyl 2-(3-methoxy-4-methylthio-2-azetidinon-1-yl)acetate | COC1C(N(C1SC)CC(=O)OC)=O | C8H13NO4S
